US08278290B2
(ii) [2-(1-Benzyl-1H-pyrazol-4-yl)-7-hydroxy-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone
Application of the general procedure to 2-benzyloxy-6-iodo-3-methoxy-phenol, 1-benzyl-4-ethynyl-1H-pyrazole and 3,4,5-trimethoxy-iodo-benzene (NB—the initial coupling proceeded slowly and was continued overnight) and silica-gel flash chromatography (eluent=40% ethyl acetate in hexane) gave a mixture of the title compound, [2-(1-benzyl-1-pyrazol-4-yl)-7-benzyloxy-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone and the corresponding non-carbonyl inserted derivative. This mixture was again subjected to silica-gel flash chromatography (sequential elution—2% diethyl ether in DCM, 10%). Concentration of the first eluted fractions afforded a mixture of the 7-benzyloxy derivative and the non-carbonyl inserted material and was used in subsequent chemistry. The later fractions gave the title compound (2% yield) as a pale yellow solid. An analytical sample was obtained by recrystallisation from DCM and hexane. 1H-NMR (CDCl3) δ 8.08 (s, 1H), 8.03 (s, 1H), 7.36-7.27 (m, 3H), 7.22-7.19 (m, 2H), 7.10 (s, 2H), 6.80 (d, J=8.6 Hz, 1H), 6.74 (d, J=8.6 Hz, 1H), 5.28 (s, 2H), 3.92 (s, 3H), 3.91 (s, 3H), 3.74 (s, 6H).

reactant | 2-benzyloxy-6-iodo-3-methoxy-phenol | C(C1=CC=CC=C1)OC1=C(C(=CC=C1OC)I)O | C14H13IO3
reactant | 1-benzyl-4-ethynyl-1H-pyrazole | C(C1=CC=CC=C1)N1N=CC(=C1)C#C | C12H10N2
reactant | 3,4,5-trimethoxy-iodo-benzene | COC=1C=C(C=C(C1OC)OC)I | C9H11IO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | [2-(1-Benzyl-1H-pyrazol-4-yl)-7-hydroxy-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone | C(C1=CC=CC=C1)N1N=CC(=C1)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=CC(=C2O)OC | C29H26N2O7
